US07208524B2
To a suspension of 241 mg of 5-carbamoyl-2-methoxybenzenesulfonyl chloride and 288 mg of 2-(2-aminoethyl)-N-tert-butyl-5-isopropylbenzenesulfonamide in 10 mL of N,N-dimethylformamide was added 0.32 mL of triethylamine, and the mixture was stirred at room temperature for 3 days. To the reaction mixture was added 30 mL of water, and the mixture was stirred at the same temperature for 1 hour. To the mixture was added 10 mL of 1 mol/L hydrochloric acid, and the mixture was extracted three times with 20 mL of ethyl acetate. The organic layers were combined and washed with 30 mL of water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 426 mg of 3-[[2-(2-tert-butylsulfamoyl-4-isopropylpheyl)ethyl]sulfamoyl]-4-methoxybenzamide.

reactant | 5-carbamoyl-2-methoxybenzenesulfonyl chloride | 241 mg | C(N)(=O)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C8H8ClNO4S
reactant | 2-(2-aminoethyl)-N-tert-butyl-5-isopropylbenzenesulfonamide | 288 mg | NCCC1=C(C=C(C=C1)C(C)C)S(=O)(=O)NC(C)(C)C | C15H26N2O2S
reactant | triethylamine | 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 3-[[2-(2-tert-butylsulfamoyl-4-isopropylpheyl)ethyl]sulfamoyl]-4-methoxybenzamide | 426 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C=1C=C(C(=O)N)C=CC1OC | C23H33N3O6S2
